US08455475B2
2,2′-(1-Benzylazepane-4,4-diyl)diacetic acid
65% H2SO4 (17.5 ml) was added to a solid powder of 9-benzyl-2,4-dioxo-3,9-diazaspiro[5.6]dodecane-1,5-dicarbonitrile (3.5 g, 10.4 mmol) and the reaction mixture was heated at reflux for 2 h. Then the reaction mixture was cooled to RT, water (6.1 ml) was added and it was again heated at reflux for 20 h. After cooling to 0° C., the reaction mixture was first basified to pH ˜10-12 using 40% NaOH solution and then acidified to pH ˜2-3 using 2 N HCl solution. The solvent was removed under reduced pressure and the residue was dried by azeotropic distillation with benzene. Residual benzene was removed under reduced pressure to afford the dry solid product which was used in the next step without further purification.

reactant | H2SO4 | 17.5 ml | OS(=O)(=O)O | H2O4S
reactant | 9-benzyl-2,4-dioxo-3,9-diazaspiro[5.6]dodecane-1,5-dicarbonitrile | 10.4 mmol, 3.5 g | C(C1=CC=CC=C1)N1CCC2(C(C(NC(C2C#N)=O)=O)C#N)CCC1 | C19H20N4O2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | water | 6.1 ml | O | H2O
product | 2,2′-(1-Benzylazepane-4,4-diyl)diacetic acid | C(C1=CC=CC=C1)N1CCC(CCC1)(CC(=O)O)CC(=O)O | C17H23NO4
